US05461026
3-(2-Chloro-1-hydroxyethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-pyridine sulfonamide
To 140 mg of 3-(1-acetoxy-2-chloroethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-pyridinesulfonamide in 20 ml of methanol is added 20 mg of LiOH.H2O and 0.5 ml of water. After stirring at room temperature for 3 hours the solution is acidified to pH 4.5 with 5% aq. HCl. The resultant solution is extracted three times with CH2Cl2. The organic phase is evaporated and the trituration of the residue with Et2O yields the solid product.

reactant | 3-(1-acetoxy-2-chloroethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-pyridinesulfonamide | 140 mg | C(C)(=O)OC(CCl)C=1C(=NC=CC1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C16H18ClN5O7S
reactant | LiOH.H2O | 20 mg | O[Li].O
reactant | water | 0.5 ml | O | H2O
reactant | HCl | Cl | ClH
solvent | methanol | 20 ml | CO | CH4O
product | 3-(2-Chloro-1-hydroxyethyl)-N-[(4,6-dimethoxypyrimidin-2-yl)aminocarbonyl]-2-pyridine sulfonamide | ClCC(O)C=1C(=NC=CC1)S(=O)(=O)NC(=O)NC1=NC(=CC(=N1)OC)OC | C14H16ClN5O6S
